US08003677B2
10a: tert-Butyl 5-(5-ethoxycarbonylpyridin-2-yl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrole-2-carboxylate
Ethyl 6-chloronicotinate (567 mg, 3.05 mmol), tert-butyl 3,4,5,6-tetrahydro-1H-pyrrolo-[3,4-c]pyrrole-2-carboxylate (565.9 mg, 2.7 mmol) and cesium carbonate (878 mg, 2.7 mmol) were stirred in 20 ml of DMF at 100° C. for 8 h and at 120° C. for 8 h. The residue was filtered off, washed with water and ethyl acetate, and dried. The first filtrate was concentrated and stirred with ethyl acetate, and the product was filtered off. Yield: 72%, M+H+: 360.20.

reactant | Ethyl 6-chloronicotinate | 3.05 mmol, 567 mg | ClC1=NC=C(C(=O)OCC)C=C1 | C8H8ClNO2
reactant | tert-butyl 3,4,5,6-tetrahydro-1H-pyrrolo-[3,4-c]pyrrole-2-carboxylate | 2.7 mmol, 565.9 mg | C1N(CC2=C1CNC2)C(=O)OC(C)(C)C | C11H18N2O2
reactant | cesium carbonate | 2.7 mmol, 878 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | tert-Butyl 5-(5-ethoxycarbonylpyridin-2-yl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrole-2-carboxylate | Yield: 72% | C(C)OC(=O)C=1C=CC(=NC1)N1CC2=C(C1)CN(C2)C(=O)OC(C)(C)C | C19H25N3O4
